US05677302
To solution containing 1-(butylcarbamoyl)-1,3-dihydroimidazole-2-thione (4.73 g, 23.7 mmole) suspended in 15 mL of dichloromethane cooled to 0° C. under a nitrogen atmosphere, was added bromine (3.79 g, 23.7 mmole) dissolved in 15 mL of dichloromethane, in a dropwise manner. After the addition was complete, triethylamine (4.81 g, 47.5 mmole) dissolved in 15 mL dichloromethane was added such that the temperature of the reaction mixture never exceeded 0° C. The reaction mixture was maintained at 0° C. for an additional 2 h and then stirred for 16 h at room temperature. It was then diluted with 150 mL of dichloromethane and washed twice with water and once with a saturated sodium chloride solution. The organic layer was then dried over magnesium sulfate and evaporated to dryness to yield 4.30 g (92%) of 2-butylimidazo[1,2-d]-1,2,4-thiadiazole-3(2H)-one as an off-white powder: mp 142°-143° C.; 1H NMR (CDCl3) δ7.40 (d, 1H), 7.20 (d, 1H), 3.79 (t, 2H), 1.73 (m, 2H), 1.40 (m, 2H), 0.957 (t, 3H) ppm; IR (KBr) ν1702 cm-1.

reactant | 1-(butylcarbamoyl)-1,3-dihydroimidazole-2-thione | 23.7 mmole, 4.73 g | C(CCC)NC(=O)N1C(NC=C1)=S | C8H13N3OS
reactant | bromine | 23.7 mmole, 3.79 g | BrBr | Br2
reactant | triethylamine | 47.5 mmole, 4.81 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-butylimidazo[1,2-d]-1,2,4-thiadiazole-3(2H)-one | 4.30 g, 92% | C(CCC)N1SC=2N(C1=O)C=CN2 | C8H11N3OS
